US07067540B2
3-chloro-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-(hydroxymethyl)pyridin-2(1H)-one
The title compound was prepared by taking 4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-(hydroxymethyl)pyridin-2(1H)-one (1.5 g, 3.9 mmol) in acetonitrile (15 mL) and adding to that N-chlorosuccinimide (580 mg, 4.3 mmol). The reaction was stirred at rt for 3 h afterwhich a small amount of additional N-chlorosuccinimide (50 mg, 0.4 mmol) was added to the reaction. Stirring was continued for 1 h. The reaction mixture was filtered through a fritted funnel to obtain the crude material. 1H NMR (400 MHz, DMSO-d6) δ 7.69-7.61 (m, 2H), 7.37-7.31 (m, 3H), 7.17 (dt, J=8.8, 2.0 Hz, 1H), 6.80 (s, 1H), 5.70 (t, J=6.0 Hz, 1H), 5.38 (s, 2H), 4.01 (d, J=6.0 Hz, 2H); ES-HRMS m/z 414.0515 (M+H calcd for C19H13ClF4NO3, requires 414.0520).

reactant | 4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-(hydroxymethyl)pyridin-2(1H)-one | 3.9 mmol, 1.5 g | FC1=C(COC2=CC(N(C(=C2)CO)C2=C(C=CC=C2F)F)=O)C=CC(=C1)F | C19H13F4NO3
reactant | N-chlorosuccinimide | 4.3 mmol, 580 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 0.4 mmol, 50 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-chloro-4-[(2,4-difluorobenzyl)oxy]-1-(2,6-difluorophenyl)-6-(hydroxymethyl)pyridin-2(1H)-one | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)CO)C1=C(C=CC=C1F)F)=O | C19H12ClF4NO3
